US09193723B2
methyl 5-(3-cyclopropylpropioloyl)thiophene-2-carboxylate
Methyl 5-(chlorocarbonyl)thiophene-2-carboxylate (500 mg, 2.443 mmol) was dissolved in triethylamine (5 mL) and the suspension was degassed with nitrogen. Copper(I) iodide (40 mg, 0.210 mmol) and bistriphenylphosphine palladium (II) chloride (40 mg, 0.057 mmol) were added followed by ethynylcyclopropane (162 mg, 2.443 mmol). The mixture was stirred overnight, diluted with methanol and concentrated to dryness. The crude material was partitioned between dichloromethane and water. The organic extracts were dried with sodium sulfate, filtered, concentrated and purified by normal phase chromatography to afford the title compound.

reactant | Methyl 5-(chlorocarbonyl)thiophene-2-carboxylate | 2.443 mmol, 500 mg | ClC(=O)C1=CC=C(S1)C(=O)OC | C7H5ClO3S
reactant | ethynylcyclopropane | 2.443 mmol, 162 mg | C(#C)C1CC1 | C5H6
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
catalyst | Copper(I) iodide | 0.210 mmol, 40 mg | [Cu]I
product | methyl 5-(3-cyclopropylpropioloyl)thiophene-2-carboxylate | C1(CC1)C#CC(=O)C1=CC=C(S1)C(=O)OC | C12H10O3S
